US06806274B1
A mixture of methyl 4-amino-5-carbamoyl-2-hydroxybenzoate (5.4 g) and formic acid (50 ml) was heated to reflux for 1 hour. The mixture was evaporated. Toluene (75 ml) was added and the mixture was evaporated. The solid residue was washed with methanol and diethyl ether and dried to give methyl 7-hydroxy-4-oxo-3,4-dihydroquinazolin-6-carboxylate (5.2 g); NMR Spectrum: (DMSOd6) 4.9 (s, 3H), 7.09 (s, 1H), 7.39 (s, 1H), 8.5 (s, 1H).

reactant | methyl 4-amino-5-carbamoyl-2-hydroxybenzoate | 5.4 g | NC1=CC(=C(C(=O)OC)C=C1C(N)=O)O | C9H10N2O4
reactant | formic acid | 50 ml | C(=O)O | CH2O2
product | methyl 7-hydroxy-4-oxo-3,4-dihydroquinazolin-6-carboxylate | 5.2 g | OC1=C(C=C2C(NC=NC2=C1)=O)C(=O)OC | C10H8N2O4
